US08754075B2
A solution of 5-chloro-pyrazine-2-carboxylic acid (1.50 g, 9.46 mmol) in dry dimethylsulfoxide (5 ml) was treated at 25° C. with cyclopropyl-methanol (1.02 g, 14.1 mmol) and powdered potassium hydroxide (2.12 g, 37.4 mmol). The mixture was heated in a microwave oven at 80° C. for 90 minutes. For the workup, the reaction mixture was quenched with an aqueous solution of citric acid (10%), then extracted with ethyl acetate (5×30 ml), followed by the extraction with a 4:1-mixture of dichloromethane and methanol. The combined organic layers were washed with brine (200 ml), dried and evaporated ate reduced pressure. After lyophilization the 5-cyclopropylmethoxy-pyrazine-2-carboxylic acid (34% yield) was obtained as a white solid. MS (ISP): m/z=195.0 [M+H]+.

reactant | 5-chloro-pyrazine-2-carboxylic acid | 9.46 mmol, 1.50 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | cyclopropyl-methanol | 14.1 mmol, 1.02 g | C1(CC1)CO | C4H8O
reactant | potassium hydroxide | 37.4 mmol, 2.12 g | [OH-].[K+]
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 5-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 34% yield | C1(CC1)COC=1N=CC(=NC1)C(=O)O | C9H10N2O3
